US07863291B2
A mixture of N-(5,6-dichloropyridin-2-yl)pivalamide (790 mg, 3.20 mmol), hydrochloric acid, 37% (1.25 mL), water (1.25 mL), and EtOH (3 mL) was heated for 4 hrs in an oil bath at 85-90° C. LCMS showed nearly complete conversion to product. The reaction was cooled to room temperature and the reaction mixture was evaporated down to a small volume, then transferred to a separatory funnel where it was partitioned between aqueous sodium carbonate and ethyl acetate. The layers were separated, the aqueous phase was washed again with ethyl acetate, and the combined organic phases were washed with brine, dried over MgSO4, filtered, and evaporated to give a white solid. The material was subjected to a Biotage column in 20% ethyl acetate/hexane, collecting the main component. 5,6-Dichloropyridin-2-amine (0.49 g, 2.98 mmol, 93%) was obtained as a white solid. 1H NMR (500 MHz, CDCl3) δ ppm 7.44 (d, J=8.55 Hz, 1 H), 6.36 (d, J=8.24 Hz, 1 H), 4.58 (s, 2 H). MS (LC/MS) R.T.=1.28; [M+H]+=164.8.

reactant | N-(5,6-dichloropyridin-2-yl)pivalamide | 3.20 mmol, 790 mg | ClC=1C=CC(=NC1Cl)NC(C(C)(C)C)=O | C10H12Cl2N2O
reactant | hydrochloric acid | Cl | ClH
reactant | water | 1.25 mL | O | H2O
reactant | EtOH | 3 mL | CCO | C2H6O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 5,6-Dichloropyridin-2-amine | 2.98 mmol, 0.49 g, 93% | ClC=1C=CC(=NC1Cl)N | C5H4Cl2N2
